US08975261B2
(2 S)-2-[4-(4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidin-5-yl)-1H-pyrazol-1-yl]propan-1-ol (NN2)
To a solution of 4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-(1H-pyrazol-4-yl)pyrimidine (NN1) (15 mg, 0.04 mmol) in DMF (0.4 mL) was added and (2S)-2-chloropropan-1-ol (9.0 mg, 0.09 mmol) and potassium carbonate (18.4 mg, 0.13 mmol). The reaction mixture was stirred at ambient temperature for 14 hours. The mixture was filtered and purified by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-45% acetonitrile in water with 0.1% TFA modifier) to afford the title compound as a white solid. 1H NMR (500 MHz, DMSO): δ 8.74 (s, 1 H), 8.13 (d, J=11.7 Hz, 2 H), 8.00 (s, 1 H), 7.27 (d, J=7.1 Hz, 2 H), 4.55-4.50 (m, 1 H), 4.37-4.30 (m, 1 H), 3.96 (s, 3 H), 3.78 (s, 3 H), 2.50 (s, 3 H), 2.22 (d, J=7.1 Hz, 1 H), 1.80 (s, 1 H), 1.25-1.16 (m, 2 H), 1.07 (m, 1 H), 1.01 (d, J=5.3 Hz, 3 H); HRMS m/z (M+H) 396.2019 found, 396.2030 required.

reactant | 4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-(1H-pyrazol-4-yl)pyrimidine | 0.04 mmol, 15 mg | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC(=NC=C1C=1C=NNC1)C | C18H19N5O2
reactant | (2S)-2-chloropropan-1-ol | 0.09 mmol, 9.0 mg | Cl[C@H](CO)C | C3H7ClO
reactant | potassium carbonate | 0.13 mmol, 18.4 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | (2 S)-2-[4-(4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidin-5-yl)-1H-pyrazol-1-yl]propan-1-ol | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC(=NC=C1C=1C=NN(C1)[C@H](CO)C)C | C21H25N5O3
